US06569888B1
N-(3,4-Dichlorobenzyl)-5-methoxy-4-(carbamoylmethoxy)indole-2-carboxylic Acid (Compound 11)
Lithium iodide (0.39 g) was added to stirred solution of methyl N-(3,4-dichlorobenzyl)-5-methoxy-4-carbamoylmethoxyindole-2-carboxylate (0.12 g) in pyridine (10 ml) under an atmosphere of argon. The reaction was then heated at 115° C. for 16 hours. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and hydrochloric acid (2.0 M, 10 ml). Combined organic extracts were washed with water and saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated in vacuo to give the product as a cream coloured solid (35 mg, 30%); NMR d (CD3SOCD3) 3.80 (s, 3H), 4.51 (s, 2H), 5.79 (s, 2H), 6.90 (dd, 1H), 7.18 (d, 1H), 7.25 (d, 1H), 7.34 (d, 1H), 7.39 (s, 1H), 7.42 (brs, 1H), 7.51 (d, 1H), 7.57 (brs, 1H), 13.05 (brs, 1H); M/z (−) 421 (M−H+).

reactant | Lithium iodide | 0.39 g | [I-].[Li+]
reactant | methyl N-(3,4-dichlorobenzyl)-5-methoxy-4-carbamoylmethoxyindole-2-carboxylate | 0.12 g | ClC=1C=C(CN2C(=CC3=C(C(=CC=C23)OC)OCC(N)=O)C(=O)OC)C=CC1Cl | C20H18Cl2N2O5
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-(3,4-Dichlorobenzyl)-5-methoxy-4-(carbamoylmethoxy)indole-2-carboxylic Acid | 35 mg, 30% | ClC=1C=C(CN2C(=CC3=C(C(=CC=C23)OC)OCC(N)=O)C(=O)O)C=CC1Cl | C19H16Cl2N2O5
